US05550121
(2S,4R)-N-tert-Butoxycarbonyl-4-tert-butyldimethylsiloxy-2-[1-hydroxy-2-(methoxycarbonyl)ethyl]pyrrolidine
To a mixture of tetrahydrofuran (45 ml) and tetraethylethylenediamine (1.5 ml) were successively added a 1.0M sodium hexamethyldisilazide--tetrahydrofuran solution (0.892 ml) and methyl acetate (71.2 μl) at -78° C. The mixture was stirred for 30 minutes, and then a tetrahydrofuran solution of (2S,4R)-N-tert-butoxycarbonyl-4-(tert-butyldimethylsiloxy)prolinal (196 mg) was added thereto. This solution was stirred for 30 minutes. Saturated aqueous ammonium chloride was added to the reaction solution. The mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate. The solvent was removed in vacuo. The residue was purified by silica gel column chromatography (heptane-ethyl acetate=3:1) to obtain the title compound [209 mg, yield: 87.1%; (R)-isomer (polar compound):(S)-isomer (less polar compound)=1.82:1].

reactant | tetraethylethylenediamine | 1.5 ml | C(C)N(CCN(CC)CC)CC | C10H24N2
reactant | sodium hexamethyldisilazide | 1.0M | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | methyl acetate | 71.2 μl | C(C)(=O)OC | C3H6O2
reactant | (2S,4R)-N-tert-butoxycarbonyl-4-(tert-butyldimethylsiloxy)prolinal | 196 mg | C(C)(C)(C)OC(=O)N1[C@H](C=O)C[C@H](C1)O[Si](C)(C)C(C)(C)C | C16H31NO4Si
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.892 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
product | (2S,4R)-N-tert-Butoxycarbonyl-4-tert-butyldimethylsiloxy-2-[1-hydroxy-2-(methoxycarbonyl)ethyl]pyrrolidine | yield: 87.1% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(CC(=O)OC)O | C19H37NO6Si
